US04629781
Preparation of deglucoteicoplanin from teicoplanin complex
2.5 g of teicoplanin complex (i.e. the antibiotic complex containing teichomycin factors A1, A2 and A3, as obtained by fermentation of strain ATCC 31121 according to U.S. Pat. No. 4,239,751), is dissolved into 150 ml of acetic at 80° C. To this solution, 480 mg of DOWEX® HCR-S (a strong acid cation exchanger styrene-divinyl benzene sulfonated resin in the hydrogen form; standard mesh size: 20-50. The resin is previously anhydrified by washing with five portions, each of 100 ml of methanol and then dried in the air overnight) and 0.13 ml of water are added. The mixture is vigorously stirred for 20 hours and then the resin is filtered off and washed twice with 100 ml portions of acetic acid containing 10% (v/v) of 37% (w/v) aqueous HCl. The organic solution are combined and poured into 2 liters of ethyl ether. The crude precipitate is washed with ethyl ether and then worked up as in Example 4 yielding 600 mg of substantially pure deglucoteicoplanin.

reactant | teichomycin | CCCCCCCCCC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@H]1OC2=C3C=C4C=C2OC5=C(C=C(C=C5)[C@H]([C@H]6C(=O)N[C@H](C7=CC(=CC(=C7C8=C(C=CC(=C8)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)O)OC1=C(C=CC(=C1)[C@H](C(=O)N[C@H](CC1=CC(=C(O3)C=C1)Cl)C(=O)N9)N)O)O)O[C@@H]1[C@H]([C@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O)O)NC(=O)C)Cl)CO)O)O | C88H97Cl2N9O33
reactant | acetic | 150 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | styrene-divinyl benzene | C(=C)C1=C(C=CC=C1)C=C.C=CC1=CC=CC=C1
solvent | hydrogen | [H][H] | H2
product | teicoplanin | CC(=O)N[C@H]1[C@H]([C@@H]([C@@H](O[C@H]1OC2=C3C=C4C=C2OC=5C=CC(=CC5Cl)[C@H]([C@H]6C(=O)N[C@@H](C=7C=C(C=C(C7C=8C=C(C=CC8O)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)OC=1C=C(C=CC1O)[C@H](C(=O)N[C@H](CC=1C=CC(=C(C1)Cl)O3)C(=O)N9)N)O)O[C@@H]1[C@H]([C@@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@H]([C@H]([C@@H]([C@@H](O1)CO)O)O)NC(=O)C)CO)O)O | C80H81Cl2N9O33
